US08859591B2
To a −78° C. solution of 4-bromo-1-(4-methoxyphenyl)-1H-pyrazole (506 mg, 2.0 mmol) in anhydrous tetrahydrofuran (20 mL) was added n-butyllithium in hexane (0.95 mL, 2.4 mmol). The reaction was stirred for 2 h at −78° C. N,N-dimethylformamide (292 mg, 4 mmol) was added and the reaction continued to stir at −78° C. for 1 h, then at room temperature for 2 h. The reaction was quenched with saturated ammonium chloride (20 mL) and extracted with ethyl acetate (3×30 mL). The combined organics were washed with brine (30 mL), dried over sodium sulfate, filtered and concentrated. Purification by column chromatography gave 1-(4-methoxyphenyl)-1H-pyrazole-4-carbaldehyde (80 mg, 20%) as a yellow oil. 1H NMR (400 MHz, CDCl3, δ): 9.95 (s, 1H), 8.33 (s, 1H), 8.13 (s, 1H), 7.62 (d, J=9.2 Hz, 2H), 7.01 (d, J=9.2 Hz, 2H), 3.86 (s, 3H).

reactant | 4-bromo-1-(4-methoxyphenyl)-1H-pyrazole | 2.0 mmol, 506 mg | BrC=1C=NN(C1)C1=CC=C(C=C1)OC | C10H9BrN2O
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 2.4 mmol, 0.95 mL | CCCCCC | C6H14
reactant | N,N-dimethylformamide | 4 mmol, 292 mg | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-(4-methoxyphenyl)-1H-pyrazole-4-carbaldehyde | 80 mg, 20% | COC1=CC=C(C=C1)N1N=CC(=C1)C=O | C11H10N2O2
